US04472310
A solution of 24 g of 3β-acetoxy-5,6β-epoxy-17,17-ethylenedioxy-15β,16β-methylene-5β-androstan-7β-ol in 48 ml of pyridine and 48 ml of carbon tetrachloride was combined with 28 g of triphenylphosphine and stirred for 1.5 hours at room temperature. The reaction mixture was diluted with methylene chloride, washed with water, dried, and evaporated. The residue was chromatographed on silica gel, thus producing 21.5 g of 3β-acetoxy-7α-chloro-5,6β-epoxy-17,17-ethylenedioxy-15β,16β-methylene-5β-androstane, mp 169°-170° C. (diisopropyl ether).

reactant | 3β-acetoxy-5,6β-epoxy-17,17-ethylenedioxy-15β,16β-methylene-5β-androstan-7β-ol | 24 g | C(C)(=O)O[C@@H]1C[C@@]23[C@@H]([C@@H]([C@H]4[C@@H]5[C@H]6[C@@H](C7([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)OCCO7)C6)O)O3 | C24H34O6
reactant | triphenylphosphine | 28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 48 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | pyridine | 48 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3β-acetoxy-7α-chloro-5,6β-epoxy-17,17-ethylenedioxy-15β,16β-methylene-5β-androstane | 21.5 g | C(C)(=O)O[C@@H]1C[C@@]23[C@@H]([C@H]([C@H]4[C@@H]5[C@H]6[C@@H](C7([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)OCCO7)C6)Cl)O3 | C24H33ClO5
